US09428470B2
A) (3-(Benzyloxy)-5-methylphenyl)methanol
A solution of methyl 3-(benzyloxy)-5-methylbenzoate (1.29 g) in THF (10 mL) was added dropwise to a suspension of lithium aluminum hydride (0.229 g) in THF (10 mL) at 0 C. The obtained mixture was stirred at 0 C for 2 hours, then sodium sulfate decahydrate was added thereto in small portions at 0 C, and the precipitate was filtered off. The filtrate was concentrated under reduced pressure to obtain the title compound (1.01 g).

reactant | methyl 3-(benzyloxy)-5-methylbenzoate | 1.29 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)OC)C=C(C1)C | C16H16O3
reactant | lithium aluminum hydride | 0.229 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate decahydrate | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (3-(Benzyloxy)-5-methylphenyl)methanol | 1.01 g | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)C)CO | C15H16O2
